US04772600
2-(5-Bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
A solution of N-[3-[(5-bromo-2-furanylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester (110 g, 0.30 mole) was refluxed in ethylene glycol (510 ml) for 2 hours. A 20-ml aliquot (0.01 mole) was removed and water was added to the sample. The product was extracted twice into ethyl acetate and the combined organic layer was washed several times with water, dried over magnesium sulfate, charcoaled, filtered, and evaporated under reduced pressure to give 2.5 g of crude title compound (73% yield). The solid was dissolved in hot isopropyl alcohol, filtered while hot, brought to the cloud point by addition of water and cooled to give a solid which was purified on a column of 20 g of silica gel using 1:1 methylene chloride/ethyl acetate as the eluting solvent. Evaporation of the solvent from the pure fraction gave 1.2 g of product which was recrystallized from isopropyl alcohol/water and dried under high vacuum at room temperature overnight to give 0.88 g of title compound, mp 122.5°-125° C.

reactant | N-[3-[(5-bromo-2-furanylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 0.30 mole, 110 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C=1OC(=CC1)Br)=O | C14H14BrN3O4
solvent | ethylene glycol | 510 ml | C(CO)O | C2H6O2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(5-Bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 1.2 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C=2OC(=CC2)Br)=O | C14H12BrN3O3
